US09315521B2
2-{[(2,6-difluorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
As per procedure from Example 1, the title compound was prepared from 2-(bromomethyl)-1,3-difluorobenzene and 6-methyl-2-sulfanylpyrimidin-4-ol to provide the title compound as a white solid (1.02 g, 79% yield); NMR (400 MHz, DMSO-d6): δ 2.04 (s, 3H), 4.42 (s, 2H), 6.01 (bs, 1H), 7.12 (m, 2H), 7.38 (m, 1H), 12.29 (2 bs); M+268.8.

reactant | 2-(bromomethyl)-1,3-difluorobenzene | BrCC1=C(C=CC=C1F)F | C7H5BrF2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 2-{[(2,6-difluorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.02 g, 79% yield | FC1=C(C(=CC=C1)F)CSC1=NC(=CC(=N1)O)C | C12H10F2N2OS
